US07683064B2
To a slurry of 680 mg of 6-Acetyl-3,4-dihydro-2H-isoquinolin-1-one in 25 mL of THF cooled to 0° C. was slowly added 3.6 mL of 3.0 M MeMgBr in THF. After 1 h the mixture was poured into a solution of ammonium chloride in ice water. Ethyl acetate was added and the organic phase was partitioned, dried over sodium sulfate, filtered, and concentrated. Purification by flash chromatography afforded 380 mg of 6-(1-Hydroxy-1-methyl-ethyl)-3,4-dihydro-2H-isoquinolin-1-one.

reactant | 6-Acetyl-3,4-dihydro-2H-isoquinolin-1-one | 680 mg | C(C)(=O)C=1C=C2CCNC(C2=CC1)=O | C11H11NO2
reactant | MeMgBr | 3.0 M, 3.6 mL | C[Mg+].[Br-]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | 6-(1-Hydroxy-1-methyl-ethyl)-3,4-dihydro-2H-isoquinolin-1-one | 380 mg | OC(C)(C)C=1C=C2CCNC(C2=CC1)=O | C12H15NO2
